US05594021
3-benzylthiophene was prepared in the same manner as described in Example 32C using 3-thienylboronic acid and benzyl bromide, 74% yield.

reactant | 3-thienylboronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzylthiophene | 74% yield | C(C1=CC=CC=C1)C1=CSC=C1 | C11H10S
